US07897607B2
1-Benzyl-5-chloro-3-hydroxymethylcinnolin-4(1H)-one
To 0.80 g (2.4 mmol) of methyl 1-benzyl-5-chloro-4-oxo-1,4-dihydrocinnoline-3-carboxylate in 50 mL of tetrahydrofuran at −78° C. was added 7.3 mL (7.3 mmol) of DIBAL (1M in tetrahydrofuran). The mixture was allowed to warm to room temperature and stirred for 6 h. The reaction was quenched with 1N HCl and concentrated to a slurry. The slurry was dissolved in dichloromethane and was concentrated onto silica gel. The crude material was purified by flash chromatography eluting with a 4% methanol/dichloromethane mixture to give 0.44 g (60%) of the title compound as a light yellow powder.

reactant | methyl 1-benzyl-5-chloro-4-oxo-1,4-dihydrocinnoline-3-carboxylate | 2.4 mmol, 0.80 g | C(C1=CC=CC=C1)N1N=C(C(C2=C(C=CC=C12)Cl)=O)C(=O)OC | C17H13ClN2O3
reactant | DIBAL | 7.3 mmol, 1M, 7.3 mL | CC(C)C[AlH]CC(C)C
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-Benzyl-5-chloro-3-hydroxymethylcinnolin-4(1H)-one | 0.44 g, 60% | C(C1=CC=CC=C1)N1N=C(C(C2=C(C=CC=C12)Cl)=O)CO | C16H13ClN2O2
